US04683241
3-(2-methyl-3-hydroxypropyl)-4-pivaloyloxybenzophenone
A solution of 15.0 g of 3-methallyl-4-pivaloyloxybenzophenone in 30 ml of THF was treated with 100 ml of 0.5M solution of 9-borabicyclo[3.3.1]nonane in THF at 0° C. The mixture was stirred at 25° C. for 3 h and at 50° C. for 1 h. To the cooled reaction mixture were added 30 ml of ethanol, 9.5 ml of 6N sodium hydroxide, and 18 ml of 30% hydrogen peroxide. After stirring at 25° C. for 2 h, the oxidation mixture was treated with solid potassium carbonate followed by a small amount of water. The organic layer was separated and dried over MgSO4. The crude product (22 g) was chromatographed on a silica gel column using toluene-ethyl acetate. 8.0 g of product was obtained as an oil.

reactant | 3-methallyl-4-pivaloyloxybenzophenone | 15.0 g | C(C(C)=C)C=1C=C(C(=O)C2=CC=CC=C2)C=CC1OC(C(C)(C)C)=O | C22H24O3
reactant | 9-borabicyclo[3.3.1]nonane | C12CCCC(CCC1)B2 | C8H15B
reactant | sodium hydroxide | 6N, 9.5 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 18 ml | OO | H2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-(2-methyl-3-hydroxypropyl)-4-pivaloyloxybenzophenone | 8.0 g | CC(CC=1C=C(C(=O)C2=CC=CC=C2)C=CC1OC(C(C)(C)C)=O)CO | C22H26O4
